US07576215B2
4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)SULFONYL]BENZOIC ACID
4-(Chlorosulfonyl)benzoic acid (0.11 g, 0.5 mmol) in 5 mL of THF was added dropwise to a stirred solution of [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone (0.098 g, 0.25 mmol) and triethylamine (0.4 mL, 0.29 mmol) in 5 mL of THF at room temperature. The reaction mixture was stirred overnight, diluted with ethyl acetate, washed with water, and concentrated. The residue was purified by semi-preparative HPLC (Column: Phenomenex C18 Luna 21.6 mm×60 mm, 50M; Solvent A: Water (0.1% TFA buffer); Solvent B: Acetonitrile (0.1% TFA buffer); Solvent Gradient: Time 0: 0% B; 10 min: 100% B; Hold 100% B 5 min. Flow Rate: 22.5 mL/min). The product was collected based on UV absorption and concentrated to give the title compound as a brown solid (0.075 g, 50%): MS (EI) m/z 601.1 (M+H)+; 1H NMR (DMSO-d6): δ 7.03 (d, J=7.7 Hz, 1H), 7.33 (t, J=8.0 Hz, 1H), 7.39 (t, J=7.8 Hz, 2H), 7.56 (t, J=7.4 Hz, 1H), 7.60-8.75 (m, 9H), 8.06 (d, J=8.6 Hz, 1H), 8.36 (d, J=7.3 Hz, 1H), 9.16 (s, 1H), 10.34 (s, 1H).

reactant | 4-(Chlorosulfonyl)benzoic acid | 0.5 mmol, 0.11 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | 0.25 mmol, 0.098 g | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | triethylamine | 0.29 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)SULFONYL]BENZOIC ACID | 0.075 g, 50% | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C(=O)O)C=C1)C(F)(F)F | C30H19F3N2O5S
